### PR TITLE
[Merged by Bors] - feat: Levy-Prokhorov topology is finer than convergence in distribution

### PR DESCRIPTION
**Pull request by kkytola**
This PR establishes an easy topology comparison: the topology given by the Lévy-Prokhorov distance is finer than the topology of convergence in distribution.

---

- [x] depends on: #8719 [Definition of Lévy-Prokhorov distance]

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean [hunk 1]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Kalle Kytölä
 -/
 import Mathlib.MeasureTheory.Integral.Bochner
+import Mathlib.Topology.Order.Bounded
```
Comment (kkytola) [inline Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean:7]: This added import is due to moving the lemma `tendsto_integral_of_forall_integral_le_liminf_integral` from `Portmanteau.lean` to here, and adding the analoguous `tendsto_integral_of_forall_integral_le_liminf_integral`, which is used in `LevyProkhorovMetric.lean`. When also the other topology comparison will be added, `LevyProkhorovMetric.lean` will also have to import `Portmanteau.lean`, so this is a minor import creep, but I think this file is the natural place for these two lemmas (also, this file is currently basically only used for the weak convergence of measures).

File: Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean [hunk 2]
```diff
@@ -137,4 +138,62 @@ lemma integral_const_sub (f : X →ᵇ ℝ) (c : ℝ) :
...
 
+section tendsto_integral
+
+variable {X : Type*} [TopologicalSpace X] [MeasurableSpace X] [OpensMeasurableSpace X]
+
+lemma tendsto_integral_of_forall_limsup_integral_le_integral {ι : Type*} {L : Filter ι}
+    {μ : Measure X} [IsProbabilityMeasure μ] {μs : ι → Measure X} [∀ i, IsProbabilityMeasure (μs i)]
+    (h : ∀ f : X →ᵇ ℝ, 0 ≤ f → L.limsup (fun i ↦ ∫ x, (f x) ∂ (μs i)) ≤ ∫ x, (f x) ∂μ)
+    (f : X →ᵇ ℝ) :
+    Tendsto (fun i ↦ ∫ x, (f x) ∂ (μs i)) L (𝓝 (∫ x, (f x) ∂μ)) := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean:149]:
```suggestion
    (h : ∀ f : X →ᵇ ℝ, 0 ≤ f → L.limsup (fun i ↦ ∫ x, f x ∂ (μs i)) ≤ ∫ x, f x ∂μ)
    (f : X →ᵇ ℝ) :
    Tendsto (fun i ↦ ∫ x, f x ∂ (μs i)) L (𝓝 (∫ x, f x ∂μ)) := by
```
Same thing several times below.

File: Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean [hunk 3]
```diff
@@ -137,4 +138,62 @@ lemma integral_const_sub (f : X →ᵇ ℝ) (c : ℝ) :
...
+    simp only [measure_univ, ENNReal.one_toReal, smul_eq_mul, one_mul] at key
+    have := limsup_const_sub L (fun i ↦ ∫ x, (f x) ∂ (μs i)) ‖f‖ bdd_above bdd_below
+    rwa [this, _root_.sub_le_sub_iff_left ‖f‖] at key
+  · have key := h _ (f.add_norm_nonneg)
+    simp_rw [f.integral_add_const ‖f‖] at key
+    simp only [measure_univ, ENNReal.one_toReal, smul_eq_mul, one_mul] at key
+    have := limsup_add_const L (fun i ↦ ∫ x, (f x) ∂ (μs i)) ‖f‖ bdd_above bdd_below
+    rwa [this, add_le_add_iff_right] at key
+  · exact bdd_above
+  · exact bdd_below
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean:169]: Can you either move `bdd_above` and `bdd_below` to the `apply` that needs them, or inline the proofs here?

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean [hunk 4]
```diff
@@ -535,6 +535,11 @@ alias _root_.Filter.Tendsto.integrableAtFilter :=
   Measure.FiniteAtFilter.integrableAtFilter_of_tendsto
 #align filter.tendsto.integrable_at_filter Filter.Tendsto.integrableAtFilter
 
+lemma Measure.integrableOn_of_bounded (s_finite : μ s < ∞) (f_mble : AEStronglyMeasurable f μ)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntegrableOn.lean:538]: Assumptions should be formulated using `≠ ∞`.

File: Mathlib/MeasureTheory/Integral/Layercake.lean [hunk 5]
```diff
@@ -595,6 +595,29 @@ theorem Integrable.integral_eq_integral_meas_lt
       refine Measurable.ennreal_toReal ?_
       exact Antitone.measurable (fun _ _ hst ↦ measure_mono (fun _ h ↦ lt_of_le_of_lt hst h))
 
+theorem Integrable.integral_eq_integral_meas_le
+    (f_intble : Integrable f μ) (f_nn : 0 ≤ᵐ[μ] f) :
+    (∫ ω, f ω ∂μ) = ∫ t in Set.Ioi 0, ENNReal.toReal (μ {a : α | t ≤ f a}) := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/Layercake.lean:600]:
```suggestion
    ∫ ω, f ω ∂μ = ∫ t in Set.Ioi 0, ENNReal.toReal (μ {a : α | t ≤ f a}) := by
```
Same thing below.

File: Mathlib/MeasureTheory/Integral/Layercake.lean [hunk 6]
```diff
@@ -595,6 +595,29 @@ theorem Integrable.integral_eq_integral_meas_lt
...
+  rw [Integrable.integral_eq_integral_meas_lt f_intble f_nn]
+  apply integral_congr_ae
+  filter_upwards [meas_le_ae_eq_meas_lt μ (volume.restrict (Ioi 0)) f] with t ht
+  exact congrArg ENNReal.toReal ht.symm
+
+lemma integral_eq_integral_Ioc_meas_le {α : Type*} [MeasurableSpace α] {f : α → ℝ}
+    (μ : Measure α) (f_nn : 0 ≤ᵐ[μ] f)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/Layercake.lean:607]:
```suggestion
lemma integral_eq_integral_Ioc_meas_le {f : α → ℝ} (f_nn : 0 ≤ᵐ[μ] f)
```
alpha and mu are already in the context.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 7]
```diff
@@ -41,7 +43,7 @@ section Levy_Prokhorov
 
 /-! ### Lévy-Prokhorov metric -/
 
-variable {ι : Type*} {Ω : Type*} [MeasurableSpace Ω] [MetricSpace Ω]
+variable {ι : Type*} {Ω : Type*} [MeasurableSpace Ω] [PseudoMetricSpace Ω]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:46]: Isn't a pseudo-emetric space enough?

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 8]
```diff
@@ -219,6 +224,189 @@ noncomputable instance levyProkhorovDist_pseudoMetricSpace_probabilityMeasure :
...
+variable [PseudoMetricSpace Ω] [OpensMeasurableSpace Ω]
+
+variable {Ω}
+
+/-- A version of the layer cake formula for bounded continuous functions which have finite integral:
+∫ f dμ = ∫ t in (0, ‖f‖], μ {x | f(x) ≥ t} dt. -/
+lemma BoundedContinuousFunction.integral_eq_integral_meas_le_of_hasFiniteIntegral
+    {α : Type*} [MeasurableSpace α] [TopologicalSpace α] [OpensMeasurableSpace α]
+    (f : α →ᵇ ℝ) (μ : Measure α) (f_nn : 0 ≤ᵐ[μ] f) (hf : HasFiniteIntegral f μ) :
+    (∫ ω, f ω ∂μ) = ∫ t in Ioc 0 ‖f‖, ENNReal.toReal (μ {a : α | t ≤ f a}) := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:256]:
```suggestion
    ∫ ω, f ω ∂μ = ∫ t in Ioc 0 ‖f‖, ENNReal.toReal (μ {a : α | t ≤ f a}) := by
```
Same thing below.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 9]
```diff
@@ -219,6 +224,189 @@ noncomputable instance levyProkhorovDist_pseudoMetricSpace_probabilityMeasure :
...
+                Real.volume_Ioc, sub_zero, norm_nonneg, toReal_ofReal, smul_eq_mul,
+                (mul_comm _ ε).le]
+  · exact intble₂
+  · exact integrable_const ε
+  · exact intble₁
+  · exact intble₂.add <| integrable_const ε
+
+/-- A monotone decreasing convergence lemma for integrals of measures of thickenings:
+`∫ t in (0, ‖f‖], μ (thickening ε {x | f(x) ≥ t}) dt` tends to
+`∫ t in (0, ‖f‖], μ {x | f(x) ≥ t} dt` as `ε → 0` along a sequence. -/
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:315]: Why do you take it along a subsequence, instead of along the filter of positive epsilons? With `tendsto_integral_filter_of_dominated_convergence`, your proof should generalize right away.

File: Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean (hunk 3 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean:169]: Yes, thanks! This allows to remove the `@` from the `apply`, too, so it is definitely cleaner.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 9 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]: Thank you, this is obviously an improvement.

The proof of `continuous_levyProkhorov_to_probabilityMeasure` still goes via sequential continuity. But since that is only the proof, not the statement, maybe that is not too bad.

In principle there should be a proof with filters, which should in fact be cleaner than my sequence proof. But at least for me, adding the epsilon of room with `exists_seq_strictAnti_tendsto` was easier than cleanly combining the neighborhood filter `𝓝 ν` in probability measures with an extra `𝓝[>] 0` filter... With sequences, I just took a sequence of probability measures and a sequence of positive epsilons tending to zero, and paired them up, because both were indexed by natural numbers. I'm sure there exists a clean and clever filter magic for the same, but perhaps the sequence proof is acceptable? (Again, here it is only the proof, not the statement, that is affected by my clumsiness.)

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 10]
```diff
@@ -219,6 +224,196 @@ noncomputable instance levyProkhorovDist_pseudoMetricSpace_probabilityMeasure :
   dist_triangle μ ν κ := levyProkhorovDist_triangle _ _ _
   edist_dist μ ν := by simp [← ENNReal.ofReal_coe_nnreal]
 
+lemma levyProkhorov_dist_def (μ ν : LevyProkhorov (ProbabilityMeasure Ω)) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:227]: Either `LevyProkorov.dist_def` or `levyProkhorovDist_def`.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 11]
```diff
@@ -219,6 +224,196 @@ noncomputable instance levyProkhorovDist_pseudoMetricSpace_probabilityMeasure :
...
 
+section Levy_Prokhorov_comparison
+
+open BoundedContinuousFunction
+
+variable {ι : Type*} (Ω : Type*) [MeasurableSpace Ω]
+
+/-- Coercion from the type synonym `LevyProkhorov (ProbabilityMeasure Ω)`
+to `ProbabilityMeasure Ω`. -/
+def levyProkhorov_to_probabilityMeasure (μ : LevyProkhorov (ProbabilityMeasure Ω)) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:240]: I would probably name this `LevyProkhorov.probabilityMeasure` to be able to use dot notation `μ.probabilityMeasure`. With Ω implicit: if you want to use the function without variable, just use `LevyProkhorov.probabilityMeasure (Ω := Ω)`.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 12]
```diff
@@ -219,6 +224,196 @@ noncomputable instance levyProkhorovDist_pseudoMetricSpace_probabilityMeasure :
...
+    ProbabilityMeasure Ω := μ
+
+/-- Coercion from the type synonym `LevyProkhorov (FiniteMeasure Ω)` to `FiniteMeasure Ω`. -/
+def levyProkhorov_to_finiteMeasure (μ : LevyProkhorov (FiniteMeasure Ω)) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:244]: ditto

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 13]
```diff
@@ -219,6 +224,196 @@ noncomputable instance levyProkhorovDist_pseudoMetricSpace_probabilityMeasure :
...
+
+/-- A monotone decreasing convergence lemma for integrals of measures of thickenings:
+`∫ t in (0, ‖f‖], μ (thickening ε {x | f(x) ≥ t}) dt` tends to
+`∫ t in (0, ‖f‖], μ {x | f(x) ≥ t} dt` as `ε → 0` along a sequence. -/
+lemma tendsto_integral_meas_thickening_le' (f : Ω →ᵇ ℝ)
+    (εs : ℕ → ℝ) (εs_lim : Tendsto εs atTop (𝓝[>] 0))
+    {A : Set ℝ} (A_finmeas : volume A ≠ ∞) (μ : ProbabilityMeasure Ω) :
+    Tendsto (fun n ↦ ∫ t in A, ENNReal.toReal (μ (thickening (εs n) {a | t ≤ f a}))) atTop
+      (𝓝 (∫ t in A, ENNReal.toReal (μ {a | t ≤ f a}))) := by
+  exact (tendsto_integral_meas_thickening_le f A_finmeas μ).comp εs_lim
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:348]:
```suggestion
      (𝓝 (∫ t in A, ENNReal.toReal (μ {a | t ≤ f a}))) :=
  (tendsto_integral_meas_thickening_le f A_finmeas μ).comp εs_lim
```

**Review by sgouezel — COMMENTED** [review]
Looks good to me, thanks!
bors d+
